Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Weakness/Neglect 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Reason for Consult: stroke, L hemiparesis

HPI:
___ (BID #: ___) is a ___ year-old man with 
DM2,
HTN, HLD who presents as a transfer from ___ ED with
concerns for stroke.

He reports that he was well at dinner time last night, but later
in the evening began to feel dizzy and noticed that his walking
felt "unbalanced" so that he needed to hold onto furniture and
door knobs to steady himself. He went to bed and woke up this
morning at approximately 5AM, continuing to feel dizzy. EMS was
called. Upon their arrival, he was reportedly complaining of
chest pain, but EMS noted that he had a L facial droop and was
not weight bearing on the left. He was brought to ___ 
where
he was noted to be in atrial fibrillation and plegic on the 
left.
His NIHSS was 8. CT showed a a hypodensity in R posterior
parietal area (superior division of R MCA). CTA head with M2
cutoff. tPA was deferred for LKW being last night (>3 hours). He
was then transferred to the ___ for further evaluation and
treatment. 

Upon arrival to the ___ ED, his NIHSS had improved to 4 (+1 
for
L visual field cut, +1 for L leg drift, +1 for language, +1 for
extinction on L). 

___ phone interpreter was used, but Mr. ___ had
extreme difficulty using the phone, although the interpreter
stated that he was able to say "good morning" appropriately and
clearly. 

He reports that he woke up with a "pressure headache" this
morning, but this has resolved. 

Remainder of ROS is difficult as he seems to have anosognosia,
but he denies loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, vertigo, tinnitus, hearing difficulty.
Denies focal weakness, numbness, parasthesiae. Denies bowel or
bladder incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent illness, 
fever
or chills.  No night sweats or recent weight loss or gain. 
Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- HTN                               
- HLD
- DM2

 
Social History:
___
Family History:
- Mother: stroke
- Father: MI
- Grandfather: stroke      
 
Physical ___:
Admission Exam: 
Vitals: 
T: 98.2
HR: 88
BP: 176/90
RR: 21
SpO2: 98% NC

General: Awake, alert, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, full ROM. 
Pulmonary: breathing comfortably on RA
Cardiac: warm and well perfused, brisk capillary refill
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert. Has difficulty following
instructions -- initially thought to be due to language barrier,
but he is unable to speak with ___ interpreter on the 
phone.
Neglects L. Struggles with naming objects. Eventually, reveals
stories about his time in ___ in ___. Appears to be
unaware of his deficits. Intact repetition. Able to read without
difficulty. Speech was not dysarthric. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus, although demonstrates a right gaze preference. Normal
saccades. Left field cut, but difficult to tell if this is a
hemianopia vs quadrantanopia. 
V: Facial sensation intact to light touch and pin.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted. He struggles with confrontational strength
testing due to difficulty with directions, but appears to be
stronger on the R compared to left. He is antigravity throughout
but better able to resist examiner in the R vs L. 

-Sensory: Reports equal sensation to LT and pin throughout,
although he appears to be anosagnosic. + extinction to DSS
(neglects L).

-DTRs:
  Bi ___ Pat Ach
L  2   2      2     1
R  2   2     2     1
Plantar response was flexor on the right but up-going on the L. 

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: deferred

Discharge Exam: 
MS: awake, alert and oriented to date and locale.  Speech
is fluent with normal language functions.  Left sided neglect
persists.  
CN: Pupils are symmetric and reactive to light.  Eyes
conjugate in mid position.  Left visual field cut is present. 
Face is symmetrical.  
Motor: Left upper extremity drift. 
   Delt Bic Tri WrE FE IP Quad Ham TA Gastroc 
 L  4    ___  ___   3* 5     5    
 R  5    ___  ___    5  5     5   
Sensory: Extinguishes
on the left arm and leg to double simultaneous stimulation.

-Coordination: No intention tremor or dysmetria on FNF
bilaterally.
 
Pertinent Results:
___ 05:24AM BLOOD WBC-6.3 RBC-4.59* Hgb-13.9 Hct-40.1 
MCV-87 MCH-30.3 MCHC-34.7 RDW-12.3 RDWSD-39.0 Plt ___
___ 04:35AM BLOOD Neuts-72.2* Lymphs-15.9* Monos-9.3 
Eos-1.6 Baso-0.5 Im ___ AbsNeut-6.20* AbsLymp-1.37 
AbsMono-0.80 AbsEos-0.14 AbsBaso-0.04
___ 05:24AM BLOOD Plt ___
___ 04:35AM BLOOD ___ PTT-27.5 ___
___ 05:24AM BLOOD Glucose-165* UreaN-21* Creat-0.9 Na-142 
K-3.5 Cl-101 HCO3-25 AnGap-16
___ 04:35AM BLOOD Glucose-121* UreaN-19 Creat-0.9 Na-142 
K-3.4 Cl-97 HCO3-31 AnGap-14
___ 07:54AM BLOOD ALT-16 AST-20 AlkPhos-61 TotBili-1.8*
___ 07:54AM BLOOD Lipase-38
___ 04:35AM BLOOD CK-MB-3 cTropnT-<0.01
___ 04:35AM BLOOD TotProt-5.7* Albumin-3.7 Globuln-2.0 
Cholest-133
___ 05:24AM BLOOD Calcium-8.6 Phos-3.3 Mg-1.4*
___ 04:35AM BLOOD %HbA1c-7.3* eAG-163*
___ 04:35AM BLOOD Triglyc-109 HDL-39* CHOL/HD-3.4 
LDLcalc-72
___ 07:54AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 08:07AM BLOOD Glucose-211* Na-139 K-3.5 Cl-94* 
calHCO3-29
___ 09:50AM URINE Color-Straw Appear-Clear Sp ___
___ 09:50AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-300* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ 09:50AM URINE RBC-4* WBC-0 Bacteri-NONE Yeast-NONE 
Epi-<1

**FINAL REPORT ___
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

MRI Brain: 
Multiple infarcts in the distribution of the right MCA involving 
the right 
frontoparietal area and insular cortex as well as the inferior 
right occipital lobe in the watershed territory between the 
right MCA and PCA. 
Minimal blooming seen in the right parietal cortex in relation 
to the area of infarct most likely represent cortical blood 
products/hemorrhage. No large intraparenchymal hemorrhage seen 
on the MR or the CT done 1 hour prior to suggest 
intraparenchymal hemorrhagic transformation. 

Echo: 
The left atrium is moderately dilated. There is mild symmetric 
left ventricular hypertrophy. The left ventricular cavity size 
is normal. Overall left ventricular systolic function is mildly 
depressed (LVEF = 45%) secondary to inferior posterior 
hypokinesis. Right ventricular chamber size and free wall motion 
are normal. The ascending aorta is mildly dilated. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. An eccentric, posteriorly 
directed jet of Moderate to severe (3+) mitral regurgitation is 
seen. Due to the eccentric nature of the regurgitant jet, its 
severity may be significantly underestimated (Coanda effect). 
Moderate [2+] tricuspid regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.    
___ Accredited   

CTA H/N: 
  
1. Moderate narrowing of the right vertebral artery due to 
cervical 
degenerative changes. 
2. 60 % stenosis of the right internal carotid artery by NASCET 
criteria. 
3. Moderate narrowing of the left supraclinoid carotid artery. 
4. Moderate narrowing of the right subclavian artery with 
partially calcified 
atherosclerotic fibrofatty plaque. 
  

 
Brief Hospital Course:
Mr. ___ was admitted for Left sided weakness and neglect, 
found to have a inferior division of right MCA territory 
infarction.  This is likely cardioembolic in setting of 
paroxysmal atrial fibrillation. MRI confirms infarct, without 
evidence of hemorrhagic transformation. Apixaban was started on 
discharge for treatment of afib. 
#Stroke Risk Factors: CTA H/N with  R M2 cutoff, + 
atherosclerosis. Echo with EF 45%, ___ and 
hypokinesis. A1c 7.1%, LDL 72 (Simvastatin was discontinued in 
favor of atorvastatin).  
#Social Work was consulted for patient's wife who was placed in 
a rehab. Elder services and community social work were involved. 


Of note, he was continued on his home meds; except diabetic meds 
were held during admission. 

Transitional Issues: 
Follow up with outpatient neurology
No need for outpatient holter
Consider outpatient cards vs pcp follow up given echo results. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - (x) Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 72 ) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 ]  
 6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
3. GlipiZIDE XL 5 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Levemir (insulin detemir) 100 unit/mL subcutaneous DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Atorvastatin 40 mg PO QPM  
3.  GlipiZIDE XL 5 mg PO DAILY  
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Levemir (insulin detemir) 100 unit/mL subcutaneous DAILY  
6.  MetFORMIN XR (Glucophage XR) 500 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

 You were hospitalized due to symptoms of left sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 Diabetes
 High Cholesterol 
 High Blood Pressure 
 Paroxysmal Atrial Fibrillation 

 We are changing your medications as follows:  
  START Apixaban 5 mg BID 
 Start Atorvastatin 40 mg nightly 

 Please take your other medications as prescribed.  

 Please followup with Neurology and your primary care physician. 
 

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___